US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (270 mg, 0.745 mmol) and triethylamine (310 μL, 2.24 mmol) in tetrahydrofuran (5 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (88.0 μL, 0.969 mmol), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=50/50→0/100) and recrystallized from ethyl acetate-hexane to give the title compound (191 mg, 60%) as a white solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.745 mmol, 270 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C1 | C19H18N6O2
reactant | triethylamine | 2.24 mmol, 310 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.969 mmol, 88.0 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 191 mg, 60% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C1 | C23H22N6O3
